US07714004B2
Preparation of 2-chloro-6-(4-ethylphenyl)-3-(trifluoromethyl)pyridine
To a solution of 2,6-dichloro-3-trifluoromethyl pyridine (1 g, 4.54 mmol) in a mixture of toluene (11 mL), 1,4-dioxane (5.88 mL), and water (5.88 mL) were added sodium carbonate (0.96 g, 9.07 mmol), 4-ethylphenyl boronic acid (0.61 g, 4.08 mmol), and PdCl2(dppf)CH2Cl2 (0.75 g, 0.92 mmol). The mixture was stirred at 80° C. for 4 h, and then concentrated under reduced pressure. The product (0.69 g, 53%) was isolated after silica gel flash chromatography (2:1 hexanes/EtOAc). 1H NMR (400 MHz, CD3OD) δ 8.15 (d, 1H), 8.01 (d, 2H), 7.95 (d, 1H), 7.33 (d, 2H), 2.71 (q, 2H), 1.27 (t, 3H).

reactant | 2,6-dichloro-3-trifluoromethyl pyridine | 4.54 mmol, 1 g | ClC1=NC(=CC=C1C(F)(F)F)Cl | C6H2Cl2F3N
reactant | 1,4-dioxane | 5.88 mL | O1CCOCC1 | C4H8O2
reactant | sodium carbonate | 9.07 mmol, 0.96 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-ethylphenyl boronic acid | 4.08 mmol, 0.61 g | C(C)C1=CC=C(C=C1)B(O)O | C8H11BO2
solvent | toluene | 11 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 5.88 mL | O | H2O
product | 2-chloro-6-(4-ethylphenyl)-3-(trifluoromethyl)pyridine | 0.69 g, 53% | ClC1=NC(=CC=C1C(F)(F)F)C1=CC=C(C=C1)CC | C14H11ClF3N
